US08357688B2
To 70 mL of a solution of 1-benzyl-4-(pyrrolidin-1-yl)-1,2,3,6-tetrahydropyridine in benzene was added dropwise a solution 13 g of 4-bromoacetyl pyridine bromohydride in 150 mL of benzene at 0° C. over 1 hour, followed by stirring at 0° C. for 1 hour and then at room temperature for 15 hours. To the reaction mixture was added water, followed by extraction with ethyl acetate. The organic layer was dried over anhydrous magnesium sulfate, and then the solvent was evaporated under reduced pressure. The obtained residue was purified by silica gel column chromatography (dichloromethane/methanol), and to the obtained 1.86 g of 1-benzyl-3-[2-oxo-2-(pyridin-4-yl)ethyl]piperidine-4-one were added 20 mL of acetic acid and 605 mg of ammonium acetate, followed by heating and refluxing for 1 hour. The reaction mixture was cooled to room temperature and the pH was adjusted to about 9 with a 10% aqueous sodium hydroxide solution, followed by extraction with ethyl acetate. The organic layer was dried over anhydrous magnesium sulfate, and then the solvent was evaporated under reduced pressure. The obtained residue was purified by silica gel column chromatography (dichloromethane/methanol) to obtain 1.26 g of 5-benzyl-2-(pyridin-4-yl)-4,5,6,7-tetrahydro-1H-pyrrolo[3,2-c]pyridine.

reactant | 1-benzyl-4-(pyrrolidin-1-yl)-1,2,3,6-tetrahydropyridine | C(C1=CC=CC=C1)N1CCC(=CC1)N1CCCC1 | C16H22N2
reactant | 4-bromoacetyl pyridine bromohydride | 13 g | Br.BrCC(=O)C1=CC=NC=C1
reactant | water | O | H2O
solvent | benzene | C1=CC=CC=C1 | C6H6
solvent | benzene | 150 mL | C1=CC=CC=C1 | C6H6
product | 5-benzyl-2-(pyridin-4-yl)-4,5,6,7-tetrahydro-1H-pyrrolo[3,2-c]pyridine | 1.26 g | C(C1=CC=CC=C1)N1CC2=C(CC1)NC(=C2)C2=CC=NC=C2 | C19H19N3
